US04026911
The 2-(methyl)-2-(7-cyano-3-heptynyl)-1,3-dioxolane (20 g, 0.1 mol) was dissolved in 200 ml EtOH and 200 ml 10N NaOH. The reaction was stirred at reflux until no more NH3 was evolved (20 hours). The cooled reaction was then poured into 500 ml H2O and extracted with 3-200 ml portions of ether. The aqueous phase was acidified with concentrated HCl and allowed to stir 2 hours at room temperature. The acid solution was extracted with ethyl acetate and the combined organic extracts were washed with H2O, brine, and dried over anhydrous MgSO4. Evaporation of the solvent gave 15.5 g (85%) of 9-oxo-5-decynoic acid as a red oil. NMR (CDCl3): 1.6-2.8(m, 11HO; 2.17(s, 3H); and 10.4(s, 1H). IR (CHCl3): 2400-3400, 1710 cm-1.

reactant | 2-(methyl)-2-(7-cyano-3-heptynyl)-1,3-dioxolane | 0.1 mol, 20 g | CC1(OCCO1)CCC#CCCCC#N | C12H17NO2
reactant | NH3 | N | H3N
reactant | H2O | 500 ml | O | H2O
reactant | EtOH | 200 ml | CCO | C2H6O
solvent | NaOH | 10N, 200 ml | [OH-].[Na+]
product | 9-oxo-5-decynoic acid | 15.5 g, 85% | O=C(CCC#CCCCC(=O)O)C | C10H14O3
